US04318913
2-[[[3-(1-Piperidinylmethyl)phenyl]methyl]thio]ethanamine
A mixture of 3-(1-piperidinylmethyl)benzenemethanol (10.8 g) and cysteamine hydrochloride (6.48 g) in concentrated hydrochloric acid (25 ml) was heated at 100° for 3 h. The cooled mixture was added to ether (500 ml) and treated with an excess of sodium carbonate. The organic solution was filtered and distilled to give the title compound as an oil (9.51 g) b.p. 175° (6×10-2 mm). TLC silica; ethyl acetate:water:isopropanol:0.88 ammonia 25:8:15:2; Rf 0.7.

reactant | 3-(1-piperidinylmethyl)benzenemethanol | 10.8 g | N1(CCCCC1)CC=1C=C(C=CC1)CO | C13H19NO
reactant | cysteamine hydrochloride | 6.48 g | Cl.NCCS
reactant | ether | 500 ml | CCOCC | C4H10O
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | hydrochloric acid | 25 ml | Cl | ClH
product | 2-[[[3-(1-Piperidinylmethyl)phenyl]methyl]thio]ethanamine | 9.51 g | N1(CCCCC1)CC=1C=C(C=CC1)CSCCN | C15H24N2S
